US07495007B2
In a manner similar to the method described in Example 227b, 2-(4-chloro-2-formyl-phenoxy)-2-methyl-propionic acid tert-butyl ester (9 g, 30 mmol) was reacted with 6-chlorooxindole (5.1 g, 30 mmol) and pyrrolidine (2.49 g, 35 mmol) in methanol to give E/Z 2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-methyl-propionic acid tert-butyl ester as a yellow oil (6.2 g).

reactant | 2-(4-chloro-2-formyl-phenoxy)-2-methyl-propionic acid tert-butyl ester | 30 mmol, 9 g | C(C)(C)(C)OC(C(C)(C)OC1=C(C=C(C=C1)Cl)C=O)=O | C15H19ClO4
reactant | 6-chlorooxindole | 30 mmol, 5.1 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | pyrrolidine | 35 mmol, 2.49 g | N1CCCC1 | C4H9N
solvent | methanol | CO | CH4O
product | 2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-methyl-propionic acid tert-butyl ester | 6.2 g | C(C)(C)(C)OC(C(C)(C)OC1=C(C=C(C=C1)Cl)C=C1C(NC2=CC(=CC=C12)Cl)=O)=O | C23H23Cl2NO4
